US04012513
A mixture of ethyl 1-quinazolin-4-ylindolin-3-yl-acetate (2.6g.) and 10% w/w palladium on charcoal catalyst (1.3g.) in diphenyl ether (20ml.) was heated under reflux for 30 minutes. The mixture was cooled to room temperature, mixed with diethyl ether (50ml.) and filtered through diatomaceous earth. The solid residue was washed with diethyl ether (50ml.). The combined diethyl ether solution was evaporated in vacuo, and the residue was chromatographed on silica gel (ca 150g.) using, as eluant, petroleum ether (b.p. 40°-60° C.) containing an increasing proportion of diethyl ether. Diphenyl ether was recovered from the first fractions (rich in petroleum ether). Evaporation in vacuo of later fractions gave a syrup which crystallised from a mixture of diethyl ether and petroleum ether (b.p. 40°-60° C.) to give ethyl 1-quinazolin-4-ylindol-3-ylacetate, m.p. 65°-67° C.

reactant | ethyl 1-quinazolin-4-ylindolin-3-yl-acetate | 2.6g | N1=CN=C(C2=CC=CC=C12)N1CC(C2=CC=CC=C12)CC(=O)OCC | C20H19N3O2
reactant | diethyl ether | 50ml | C(C)OCC | C4H10O
catalyst | palladium on charcoal | 1.3g | [Pd] | Pd
solvent | diphenyl ether | 20ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | ethyl 1-quinazolin-4-ylindol-3-ylacetate | N1=CN=C(C2=CC=CC=C12)N1C=C(C2=CC=CC=C12)CC(=O)OCC | C20H17N3O2
